US08420655B2
To a solution of 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (1 g, 3.89 mmol) in DMF (30 mL) is added 2-bromobenzaldehyde (0.7 mL, 5.83 mmol) at room temperature. Oxone (2.4 g, 3.89 mmol) in H2O (5 mL) is added and the solution is stirred for 1 hour. Saturated sodium thiosulfate solution (10 mL) is added and the mixture is extracted with EtOAc (3×15 mL) and H2O (20 mL). The combined organic layer is dried (MgSO4), filtered and concentrated. The residue is purified by silica gel flash column chromatography eluting with 10% MeOH in CH2Cl2 to afford 5-[2-(2-bromo-phenyl)-1-tert-butyl-1H-benzimidazol-5-yl]-pyrimidin-2-ylamine (800 mg, 48%) as a white solid.

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 3.89 mmol, 1 g | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 2-bromobenzaldehyde | 5.83 mmol, 0.7 mL | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | Oxone | 3.89 mmol, 2.4 g | OOS(=O)[O-].[K+]
reactant | sodium thiosulfate | 10 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | H2O | 5 mL | O | H2O
product | 5-[2-(2-bromo-phenyl)-1-tert-butyl-1H-benzimidazol-5-yl]-pyrimidin-2-ylamine | 800 mg, 48% | BrC1=C(C=CC=C1)C1=NC2=C(N1C(C)(C)C)C=CC(=C2)C=2C=NC(=NC2)N | C21H20BrN5
